US03969360
Essentially equimolar amounts of sodium 3,5,6-trichloropyridinate and methyl α-chloroacetate in toluene were blended together in the presence of from 2 to 5 mole percent of benzyltriethylammonium chloride and the mixture refluxed at 105°C for 3 hours. The product, methyl α-(3,5,6-trichloropyridyl)acetate, was thus obtained in approximately 90 percent yield.

reactant | sodium 3,5,6-trichloropyridinate | ClC=1C(=NC(=C(C1)Cl)Cl)C(=O)[O-].[Na+]
reactant | methyl α-chloroacetate | ClCC(=O)OC | C3H5ClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | benzyltriethylammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | methyl α-(3,5,6-trichloropyridyl)acetate | approximately 90 percent yield | ClC=1C(=NC(=C(C1)Cl)Cl)CC(=O)OC | C8H6Cl3NO2
